US06274725B1
Pyridinium tetrafluoborate is ion-exchanged with sodium hexafluorophosphate to give pyridinium hexafluorophosphate.

reactant | Pyridinium | [NH+]1=CC=CC=C1
reactant | sodium hexafluorophosphate | F[P-](F)(F)(F)(F)F.[Na+]
product | pyridinium hexafluorophosphate | F[P-](F)(F)(F)(F)F.[NH+]1=CC=CC=C1 | InChI=1S/C5H5N.F6P/c1-2-4-6-5-3-1;1-7(2,3,4,5)6/h1-5H;/q;-1/p+1
